US04647566
2-p-chlorophenyl-8-benzyloxycarbonyloxy-2,3,6,7,8,9-hexahydropyrazolo[4,3-c]quinolin-3(5H)-one (1.60 g) is dissolved in 100 mL of 1:1 mixture of DMF and EtOH and subjected to catalytic hydrogenation with 10% palladium on carbon (0.4 g) for 24 hours under one atmosphere pressure of hydrogen. After the reaction is complete the catalyst is filtered off and the filtrate is evaporated to dryness. The residue is triturated with EtOH to obtain 2-p-chlorophenyl-8-hydroxy-2,3,6,7,8,9-hexahydropyrazolo[4,3-c]quinolin-3(5H)-one.

reactant | 2-p-chlorophenyl-8-benzyloxycarbonyloxy-2,3,6,7,8,9-hexahydropyrazolo[4,3-c]quinolin-3(5H)-one | 1.60 g | ClC1=CC=C(C=C1)N1N=C2C(=CNC=3CCC(CC23)OC(=O)OCC2=CC=CC=C2)C1=O | C24H20ClN3O4
reactant | hydrogen | [H][H] | H2
solvent | DMF | CN(C)C=O | C3H7NO
solvent | EtOH | CCO | C2H6O
catalyst | palladium on carbon | 0.4 g | [Pd] | Pd
product | 2-p-chlorophenyl-8-hydroxy-2,3,6,7,8,9-hexahydropyrazolo[4,3-c]quinolin-3(5H)-one | ClC1=CC=C(C=C1)N1N=C2C(=CNC=3CCC(CC23)O)C1=O | C16H14ClN3O2
